US06498159B1
1,4-Dichlorophthalazine-6-carbonitrile and 3-ethyl-4-methoxybenzylamine hydrochloride were stirred at room temperature in 1-methyl-2-pyrrolidinone in the presence of DBU, whereby 1-chloro-4-[(3-ethyl-4-methoxybenzyl)amino]-6-phthalazine carbonitrile was obtained as a less polar compound.

reactant | 1,4-Dichlorophthalazine-6-carbonitrile | ClC1=NN=C(C2=CC(=CC=C12)C#N)Cl | C9H3Cl2N3
reactant | 3-ethyl-4-methoxybenzylamine hydrochloride | Cl.C(C)C=1C=C(CN)C=CC1OC
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-chloro-4-[(3-ethyl-4-methoxybenzyl)amino]-6-phthalazine carbonitrile | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)CC | C19H17ClN4O
